US04284829
2-(3-Hydroxyphenyl)-2-methyloctane
In like manner, 2-(3-hydroxyphenyl)-2-methylnonane is prepared in 82% (7.8 g.) yield from 13.0 g. (0.0406 mol.) of 1-benzyloxy-3-(1,1-dimethyl-oct-2-enyl)benzene. It is obtained as an oil having the characteristics:

reactant | 2-(3-hydroxyphenyl)-2-methylnonane | OC=1C=C(C=CC1)C(C)(CCCCCCC)C | C16H26O
reactant | 1-benzyloxy-3-(1,1-dimethyl-oct-2-enyl)benzene | 0.0406 mol | C(C1=CC=CC=C1)OC1=CC(=CC=C1)C(C=CCCCCC)(C)C | C23H30O
product | 2-(3-Hydroxyphenyl)-2-methyloctane | OC=1C=C(C=CC1)C(C)(CCCCCC)C | C15H24O
